US08071588B2
A mixture of N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]-1,1-cyclopropanedicarboxamide (50 mg, 0.080 mmol), 1-methylpiperazine (7.99 mg, 0.080 mmol), sodium triacetoxyborohydride (33.8 mg, 0.160 mmol) and acetic acid (5.48 μL, 0.096 mmol) in DCM (3 mL) was stirred at room temperature over the weekend. The reaction mixture was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were concentrated under vacuum to give the crude residue. It was purified by reverse phase hplc with a Gilson HPLC (acidic conditions: 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined, washed with saturated NaHCO3 and extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-({6-fluoro-3′-[(4-methyl-1-piperazinyl)methyl]-3-biphenylyl}methyl)-1,1-cyclopropanedicarboxamide as a solid (28 mg, 49.4%). LC-MS m/z 712 (M+H)+, 0.85 min (ret time); 1H NMR (400 MHz, DMSO-d6) δ 1.19 (t, J=7.53 Hz, 3H) 1.28-1.36 (m, 7H) 1.45-1.51 (m, 2H) 1.84-1.91 (m, 2H) 2.15 (s, 3H) 2.32-2.35 (m, 8H) 2.83 (q, J=7.53 Hz, 2H) 3.48-3.56 (m, 4H) 3.80-3.86 (m, 2H) 4.03-4.10 (m, 1H) 4.27-4.35 (m, 4H) 4.38 (d, J=6.02 Hz, 2H) 6.74 (d, J=7.78 Hz, 1H) 7.19-7.26 (m, 2H) 7.28-7.49 (m, 5H) 7.99 (s, 1H) 8.48 (t, J=5.77 Hz, 1H) 9.02 (t, J=5.77 Hz, 1H).

reactant | N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-[(6-fluoro-3′-formyl-3-biphenylyl)methyl]-1,1-cyclopropanedicarboxamide | 0.080 mmol, 50 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CN(C(=O)C2(CC2)C(=O)N)CC=2C=C(C(=CC2)F)C2=CC(=CC=C2)C=O)CC | C35H39FN6O4
reactant | 1-methylpiperazine | 0.080 mmol, 7.99 mg | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxyborohydride | 0.160 mmol, 33.8 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.096 mmol, 5.48 μL | C(C)(=O)O | C2H4O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N1-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N1-({6-fluoro-3′-[(4-methyl-1-piperazinyl)methyl]-3-biphenylyl}methyl)-1,1-cyclopropanedicarboxamide | 28 mg, 49.4% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CN(C(=O)C2(CC2)C(=O)N)CC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2CCN(CC2)C)CC | C40H51FN8O3
